US07405236B2
e] [rac]-{6-[1-Methyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid
In analogy to the procedure described for example 1 e], [rac]-{6-[1-methyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain the title compound as brown crystals.

reactant | [rac]-{6-[1-methyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OC(CCC#CC1=CC=C(C=C1)OC(F)(F)F)C)=O | C25H24F3NO4
reactant | LiOH | [Li+].[OH-]
product | [rac]-{6-[1-Methyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid | CC(CCC#CC1=CC=C(C=C1)OC(F)(F)F)OC1=CC=C2C=CN(C2=C1)CC(=O)O | C23H20F3NO4
